US08058313B2
bis((E)-4-Fluorostyrylsulfonyl)methane
A solution of 4-fluorobenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 74% yield. m.p. 183-185° C.

reactant | 4-fluorobenzaldehyde | 2 mmol | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-4-Fluorostyrylsulfonyl)methane | 74% yield | FC1=CC=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=CC=C(C=C2)F)C=C1 | C17H14F2O4S2
